US07393858B2
(1R)-1-((2R,3R,4R)-{(1R)-1-[3,5-Bis(trifluoromethyl)phenyl]ethoxy}-tetrahydro-3-phenyl-2H-pyran-4-yl)-1,3-propanediol
(2R,3R,4R,αR)-α-2-Propenyl-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-tetrahydro-3-phenyl-2H-pyran-4-methanol (Description 31; 1.0 g, 2 mmol) was dissolved in dichloromethane/methanol (1:1, 30 mL), cooled to −78° C. and purged with nitrogen and then oxygen. Ozone was bubbled through the mixture for 15-20 minutes, until a blue coloration persisted. The mixture was purged with oxygen, then nitrogen, warmed to 0° C. and sodium borohydride (0.3 g, 8 mmol) was added in portions. The mixture was stirred at 0° C. for 30 minutes, aqueous ammonium chloride (10%, 40 mL) was added and the mixture was extracted with dichloromethane (2×75 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with EtOAc/hexane (50:50) to give the title compound as a colorless oil (0.5 g, 50%).

reactant | (2R,3R,4R,αR)-α-2-Propenyl-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-tetrahydro-3-phenyl-2H-pyran-4-methanol | 2 mmol, 1.0 g | C(C=C)[C@@H](O)[C@H]1[C@@H]([C@H](OCC1)O[C@H](C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C25H26F6O3
reactant | sodium borohydride | 8 mmol, 0.3 g | [BH4-].[Na+]
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
reactant | dichloromethane methanol | 30 mL | ClCCl.CO
product | (1R)-1-((2R,3R,4R)-{(1R)-1-[3,5-Bis(trifluoromethyl)phenyl]ethoxy}-tetrahydro-3-phenyl-2H-pyran-4-yl)-1,3-propanediol | 0.5 g, 50% | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC=CC=C1)[C@@H](CCO)O)(F)F | C24H26F6O4
